US08809352B2
To a stirred solution of tert-butyl 5-oxo-1,4-diazepane-1-carboxylate (1000 mg, 4.67 mmol) in dichloromethane (10 mL) was added trimethyloxonium tetrafluoroborate (690 mg, 4.67 mmol) under nitrogen and the reaction mixture was stirred for 16 hours. At this point, formic hydrazine (280 mg, 4.67 mmol) in dichloromethane (8 mL) was added, and the reaction was stirred for an additional 16 hours. The reaction mixture was then concentrated under reduced pressure, resuspended in methanol (10 mL), and heated to reflux for 16 hours. The reaction mixture was concentrated and purified via flash chromatography on silica gel (0-50% 2N NH3 in methanol in CH2Cl2) to afford 4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester (680 mg, 61% yield). MS [m/z; (M+1)30 ]: 319.3

reactant | tert-butyl 5-oxo-1,4-diazepane-1-carboxylate | 4.67 mmol, 1000 mg | O=C1NCCN(CC1)C(=O)OC(C)(C)C | C10H18N2O3
reactant | trimethyloxonium tetrafluoroborate | 4.67 mmol, 690 mg | F[B-](F)(F)F.C[O+](C)C
reactant | hydrazine | 4.67 mmol, 280 mg | NN | H4N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester | 680 mg, 61% yield | C(C)(C)(C)OC(=O)N1CCN2C=NN=C2CC1 | C11H18N4O2
